* NGSPICE file created from gf180mcu_fd_sc_mcu9t5v0__inv_1.ext - technology: gf180mcuD

.subckt gf180mcu_fd_sc_mcu9t5v0__inv_1 I ZN VDD VNW VPW VSS
X0 ZN I VDD VNW pfet_05v0 ad=0.8052p pd=4.54u as=0.8052p ps=4.54u w=1.83u l=0.5u
X1 ZN I VSS VPW nfet_05v0 ad=0.5808p pd=3.52u as=0.5808p ps=3.52u w=1.32u l=0.6u
.ends

