* NGSPICE file created from gf180mcu_fd_sc_mcu9t5v0__and2_1.ext - technology: gf180mcuD

.subckt gf180mcu_fd_sc_mcu9t5v0__and2_1 A1 A2 Z VDD VNW VPW VSS
X0 VDD A2 a_36_201# VNW pfet_05v0 ad=0.5054p pd=2.57u as=0.2132p ps=1.34u w=0.82u l=0.5u
X1 a_244_201# A1 a_36_201# VPW nfet_05v0 ad=0.1056p pd=0.98u as=0.2904p ps=2.2u w=0.66u l=0.6u
X2 Z a_36_201# VSS VPW nfet_05v0 ad=0.5808p pd=3.52u as=0.3894p ps=2.06u w=1.32u l=0.6u
X3 Z a_36_201# VDD VNW pfet_05v0 ad=0.8052p pd=4.54u as=0.5054p ps=2.57u w=1.83u l=0.5u
X4 VSS A2 a_244_201# VPW nfet_05v0 ad=0.3894p pd=2.06u as=0.1056p ps=0.98u w=0.66u l=0.6u
X5 a_36_201# A1 VDD VNW pfet_05v0 ad=0.2132p pd=1.34u as=0.3608p ps=2.52u w=0.82u l=0.5u
.ends

