* NGSPICE file created from gf180mcu_fd_sc_mcu9t5v0__antenna.ext - technology: gf180mcuD

.subckt gf180mcu_fd_sc_mcu9t5v0__antenna I VDD VNW VPW VSS
D0 I VNW diode_pd2nw_06v0 pj=1.85u area=0.2034p
D1 VPW I diode_nd2ps_06v0 pj=1.85u area=0.2034p
.ends

