* NGSPICE file created from gf180mcu_fd_sc_mcu9t5v0__fillcap_8.ext - technology: gf180mcuD

.subckt gf180mcu_fd_sc_mcu9t5v0__fillcap_8 VDD VNW VPW VSS
X0 VDD a_572_481# a_484_573# VNW pfet_05v0 ad=0.8052p pd=4.54u as=0.8052p ps=4.54u w=1.83u l=1u
X1 a_572_481# a_484_573# VSS VPW nfet_05v0 ad=0.5808p pd=3.52u as=0.5808p ps=3.52u w=1.32u l=1u
X2 a_124_481# a_36_573# VSS VPW nfet_05v0 ad=0.5808p pd=3.52u as=0.5808p ps=3.52u w=1.32u l=1u
X3 VDD a_124_481# a_36_573# VNW pfet_05v0 ad=0.8052p pd=4.54u as=0.8052p ps=4.54u w=1.83u l=1u
.ends

