* NGSPICE file created from gf180mcu_fd_sc_mcu9t5v0__nor2_1.ext - technology: gf180mcuD

.subckt gf180mcu_fd_sc_mcu9t5v0__nor2_1 A1 A2 ZN VDD VNW VPW VSS
X0 ZN A1 a_234_573# VNW pfet_05v0 ad=0.8052p pd=4.54u as=0.5673p ps=2.45u w=1.83u l=0.5u
X1 VSS A1 ZN VPW nfet_05v0 ad=0.4048p pd=2.72u as=0.2392p ps=1.44u w=0.92u l=0.6u
X2 a_234_573# A2 VDD VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.8052p ps=4.54u w=1.83u l=0.5u
X3 ZN A2 VSS VPW nfet_05v0 ad=0.2392p pd=1.44u as=0.4048p ps=2.72u w=0.92u l=0.6u
.ends

