* NGSPICE file created from inv1.ext - technology: gf180mcuD

.subckt inv1 DVDD vin vout DVSS
X0 vout vin DVSS DVSS nfet_03v3 ad=0.5525p pd=3u as=0.425p ps=2.7u w=0.85u l=0.3u
X1 vout vin DVDD DVDD pfet_03v3 ad=1.105p pd=4.7u as=0.85p ps=4.4u w=1.7u l=0.3u
.ends

